US07465795B2
4-amino-8-(3-cyanophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 3-cyanophenylboronic acid (147 mg, 1.000 mmol) were reacted to afford the title compound (138 mg, 86% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.54 (br, 1H), 8.06-7.89 (m, 3H), 7.85-7.69 (m, 3H), 7.65-7.57 (m, 1H), 3.47 (apparent quartet, J=7.0 Hz, 2H), 1.68 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H). MS APCI, m/z=332 M+H) HPLC 1.93 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3-cyanophenylboronic acid | 1.000 mmol, 147 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 4-amino-8-(3-cyanophenyl)-N-propyl-cinnoline-3-carboxamide | 138 mg, 86% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=CC=C1)C#N)C(=O)NCCC | C19H17N5O
